US08071591B2
A solution of trans-3-(2-pyridyl)cyclopentanol (957 mg, 5.86 mmol) in THF (25 mL) was cooled to 0° C. and treated with phthalimide (1.29 g, 8.77 mmol), cyanomethylenetri-n-butylphosphorane (2.12 g, 8.78 mmol). The reaction mixture was stirred at 70° C. for 8 h. The solvent was removed, and the crude product was purified by column chromatography (Hexane/EtOAc=3/1→1/1) and triturated with Hexane-EtOAc to yield cis-N-[3-(2-pyridyl)cyclopentyl]phthalimide (901 mg, 53%) as a pale yellow powder.

reactant | trans-3-(2-pyridyl)cyclopentanol | 5.86 mmol, 957 mg | N1=C(C=CC=C1)[C@@H]1C[C@H](CC1)O | C10H13NO
reactant | phthalimide | 8.77 mmol, 1.29 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | cyanomethylenetri-n-butylphosphorane | 8.78 mmol, 2.12 g | C(#N)C=P(CCCC)(CCCC)CCCC | C14H28NP
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | cis-N-[3-(2-pyridyl)cyclopentyl]phthalimide | 901 mg, 53% | N1=C(C=CC=C1)[C@H]1C[C@H](CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C18H16N2O2
